US06610734B2
A solution of N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]-5-(trimethylstannyl)-2-thiophene sulfonamide (1.0 g, 2.34 mmol) in dry acetonitrile (20 mL) was stirred under nitrogen at 25° C. Selectfluor (0.850 g, 2.40 mL) was added in one portion and the solution stirred for 19 h at 25° C. After 3 h a white precipitate began to appear. An aliquot was taken and TLC. (1:1 EtOAc-hexane) indicated that reaction was not complete. Mainly, starting material was present. The reaction was heated to 80° C. for 6 h. An aliquot was taken and TLC. (1:1 EtOAc-hexane) indicated that reaction was complete. The slurry was then filtered and the solvent removed in vacuo to obtain a crude yellow oil (0.6 g). The crude product was purified by column chromatography, silica gel 230-400 mesh, eluent: 1:2 EtOAc-hexane to obtain 5-fluoro-N-[(1S,2S)-1-(hydroxymethyl)-2-methyl-butyl]-2-thiophenesulfonamide as an amorphous white solid (0.102 g, 15.49%). Mass Spectrum (−ESI): 280 (M−H)−. Anal. Calc'd for CH16NFO4S2: C, 42.69; H, 5.73; N, 4.98. Found: C, 42.47; H, 5.74; N, 4.87.

reactant | N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]-5-(trimethylstannyl)-2-thiophene sulfonamide | 2.34 mmol, 1.0 g | OC[C@H]([C@H](CC)C)NS(=O)(=O)C=1SC(=CC1)[Sn](C)(C)C
reactant | Selectfluor | 2.40 mL, 0.850 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 5-fluoro-N-[(1S,2S)-1-(hydroxymethyl)-2-methyl-butyl]-2-thiophenesulfonamide | 0.102 g, 15.49% | FC1=CC=C(S1)S(=O)(=O)N[C@@H]([C@H](CC)C)CO | C10H16FNO3S2
